US05159065
condensing two molecular equivalents of benzyl 5-(acetoxymethyl)-4-ethoxycarbonylmethyl-3-methylpyrrole-2-carboxylate with 3,4-diethyl pyrrole under acidic conditions to produce 2,5-bis(5-benzyloxycarbonyl-3-ethoxycarbonylmethyl -4-methylpyrrol-2-ylmethyl)-3,4-diethylpyrrole;

reactant | benzyl 5-(acetoxymethyl)-4-ethoxycarbonylmethyl-3-methylpyrrole-2-carboxylate | C(C)(=O)OCC1=C(C(=C(N1)C(=O)OCC1=CC=CC=C1)C)CC(=O)OCC | C20H23NO6
reactant | 3,4-diethyl pyrrole | C(C)C1=CNC=C1CC | C8H13N
product | 2,5-bis(5-benzyloxycarbonyl-3-ethoxycarbonylmethyl -4-methylpyrrol-2-ylmethyl)-3,4-diethylpyrrole | C(C1=CC=CC=C1)OC(=O)C1=C(C(=C(N1)CC=1NC(=C(C1CC)CC)CC=1NC(=C(C1CC(=O)OCC)C)C(=O)OCC1=CC=CC=C1)CC(=O)OCC)C | C44H51N3O8
